US08871766B2
A) methyl 5-methyl-2-(pyridin-4-yl)benzoate
A mixture of methyl 2-bromo-5-methylbenzoate (5.2 g), pyridine-4-boronic acid (4.2 g), sodium carbonate (4.8 g), tetrakis(triphenylphosphine)palladium(0) (1.3 g), water (10 mL) and DME (50 mL) was heated under reflux overnight under a nitrogen atmosphere. The reaction mixture was diluted with ethyl acetate, and filtered through silica gel. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (2.5 g).

reactant | methyl 2-bromo-5-methylbenzoate | 5.2 g | BrC1=C(C(=O)OC)C=C(C=C1)C | C9H9BrO2
reactant | pyridine-4-boronic acid | 4.2 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | sodium carbonate | 4.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 10 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.3 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME | 50 mL | COCCOC | C4H10O2
product | methyl 5-methyl-2-(pyridin-4-yl)benzoate | 2.5 g | CC=1C=CC(=C(C(=O)OC)C1)C1=CC=NC=C1 | C14H13NO2
